* AD8397 SPICE Macro-model        
* Description: Amplifier
* Generic Desc: Dual High Current OP Amplifier
* Developed by:
* Revision History: 08/10/2012 - Updated to new header style
* 
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model 
* indicates your acceptance of the terms and provisions in the License Statement.
* 
* BEGIN Notes:
*
* Not Modeled:
*    
* Parameters modeled include: 
*
* END Notes:
*
* Node assignments
		+IN	-IN	Vcc	Vee	Out		
.subckt AD8397	1	2	99	50	4		
							
***Differential Stage							
Q1	13	12	14	npn			
Q2	17	2	16	npn			
Rc1	98	13	Rideal	4.200E+00			
Rc2	98	17	Rideal	4.200E+00			
Re1	14	15	Rideal	4.148E+00			
Re2	15	16	Rideal	4.148E+00			
Ibias	15	51	1.00E+00				
Dcmlim1	18	15	DQUIET				
Vcmlim1	18	51	1.526				
							
***Voltage Noise Generation							
HVnoise	12	7	Vvnoise	1			
VVnoise	501	0	0				
DVnoise	501	0	Dvnoise				
RVnoise	501	0	0.000817778				
							
***Current Noise Generation on +IN							
FInoise1	12	0	VInoise1	1			
VInoise1	502	0	0				
DInoise1	502	0	DInoise1				
RInoise1	502	0	7360				
							
***Current Noise Generation on -IN							
FInoise2	2	0	VInoise2	1			
VInoise2	503	0	0				
DInoise2	503	0	DInoise2				
RInoise2	503	0	7360				

***Common Mode Injection						
Rcm1	1	601	Rideal	100Meg		
Rcm2	2	601	Rideal	100Meg		
Gcmr	0	602	601	75	1.00E-06	
Rcmr1	602	603	Rideal	1Meg		
Rcmr2	603	604	Rideal	1.585E+01		
Lcmr	604	0	2.522E-03			
Ecmr	10	9	603	0	1.000E+00	

***Positive Power Supply Rejection						
Epsr1	700	0	98	0	1	
Rpsr1	700	701	Rideal	1.00E+02		
Rpsr2	701	702	Rideal	5.012E-03		
Lpsr1	702	0	7.977E-07			
Epsr2	11	10	701	0	1	

***Negative Power Supply Rejection					
Epsr3	703	0	51	0	1
Rpsr3	703	704	Rideal	1.00E+02	
Rpsr4	704	705	Rideal	5.012E-03	
Lpsr2	705	0	7.977E-07		
Epsr4	12	11	704	0	1

***Input Offset and Bias					
Vos	1	7	1.000E-03		
Ios	1	2	2.500E-08		

***Input Impedance					
Cinv	2	0	1.40E-12		
Cninv	1	0	1.40E-12		

***1st Gain and Slew limiting					
Gslew	0	101	17	13	1.0000E+00	
Rslew	101	0	Rideal	2.50E+02		
Dslew1	101	102	DZENER			
Dslew2	0	102	DZENER			

***Second Gain and Dominant Pole with Output Voltage Limiting						
Gp1	51	201	101	0	1.801E-06	
Rp1	201	51	Rideal	8.842E+08		
Cp1	201	51	1.50E-12			
Vlim1	97	206	0.65			
Dlim1	201	206	dquiet			
Vlim2	207	52	0.65			
Dlim2	207	201	dquiet			
Esupref1	97	98	51	0	1	
Esupref2	52	51	51	0	1	
						
***Second Pole						
Gp2	0	202	201	51	1.00E-03	
Rp2	202	0	Rideal	1.00E+03		
Cp2	202	0	1.59155E-12			
						
***Third Pole						
Gp3	0	203	202	0	1.00E-03	
Rp3	203	0	Rideal	1.00E+03		
Cp3	203	0	1.59155E-12			
***Fourth Pole						
Gp4	0	204	203	0	1.00E-03	
Rp4	204	0	Rideal	1.00E+03		
Cp4	204	0	1.59155E-16			
***Fifth Pole						
Gp5	0	205	204	0	1.00E-03	
Rp5	205	0	Rideal	1.00E+03		
Cp5	205	0	1.592E-16			
						
***First Zero						
Gz1	0	301	205	0	1.00E-03	
Rz1	301	302	Rideal	1.00E+03		
Lz1	302	0	1.592E-10			
***Second Zero						
Gz2	0	303	301	0	1.00E-03	
Rz2	303	304	Rideal	1.00E+03		
Lz2	304	0	1.592E-10			
***Third Zero						
Gz3	0	305	303	0	1.00E-03	
Rz3	305	306	Rideal	1.00E+03		
Lz3	306	0	1.59E-10			
						
***Buffer						
Gbuf	0	401	305	0	1.00E-04				
Rbuf	401	0	Rideal	1.00E+04					
									
***Output with current limiting									
Eout	404	0	401	0	1.000E+00				
Rout	404	405	RIDEAL	1.000E+00					
Lout	405	406	1.00E-19						
Cout	406	0	1.00E-22						
Voutmon	406	4	0						
Dout1	401	407	Dquiet						
Vout1	407	406	-3.200E-01						
Dout2	408	401	Dquiet						
Vout2	406	408	-3.200E-01						

***Voltage reference generator									
Eref1	98	0	99	0	1				
Eref2	51	0	50	0	1		
Rref1	98	901	Rideal	100Meg			
Rref2	901	51	Rideal	100Meg			
Eref3	75	0	901	0	1		

***Supply current correction							
Iq	99	50	0.0055				
Fsup1	99	0	Voutmon	1			
*DZsup1	0	802	DZENER2				
*Dsup1	99	802	DQUIET				
Fsup2	0	50	Voutmon	-1			
*DZsup2	804	0	DZENER2				
*Dsup2	804	50	DQUIET				

							
							
							
							
							
							
							
							
							
							

***models							
.model	Rideal	res	T_ABS=-273				
.model	Rnoise	res	T_ABS=27				
.model	npn	npn	BF= 384614.384615385				
.model	dquiet	d					
.model	dvnoise	d	KF=6075000				
.model	dinoise1	d	KF=0.225				
.model	dinoise2	d	KF=0.225
.model	dzener	d	BV=43.5423175545689
.model	dzener2	d	BV=50
			
.ends			
*$			


